US07973060B2
Synthesis of 1-[2-Methyl-3-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-benzyl]-4-(2-thiophen-2-yl-ethoxy)-1H-pyridin-2-one
A mixture of {2-Methyl-3-[2-oxo-4-(2-thiophen-2-yl-ethoxy)-2H-pyridin-1-ylmethyl]-phenylamino}-acetic acid (50 mg, 0.13 mmol), TBTU (60 mg, 0.19 mmol), pyrrolidine (0.02 ml, 0.25 mmol) and triethylamine (0.09 ml, 0.63 mmol) was dissolved in N,N-dimethylformamide (0.5 ml) and stirred at room temperature. After 1 hour, the resulting solution was evaporated, extracted with dichloromethane (20 ml) and subjected to silica gel column chromatography (ethyl acetate/MeOH, 20:1) to obtain the titled compound (41 mg, 71%).

reactant | {2-Methyl-3-[2-oxo-4-(2-thiophen-2-yl-ethoxy)-2H-pyridin-1-ylmethyl]-phenylamino}-acetic acid | 0.13 mmol, 50 mg | CC1=C(C=CC=C1CN1C(C=C(C=C1)OCCC=1SC=CC1)=O)NCC(=O)O | C21H22N2O4S
reactant | TBTU | 0.19 mmol, 60 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | pyrrolidine | 0.25 mmol, 0.02 ml | N1CCCC1 | C4H9N
reactant | triethylamine | 0.63 mmol, 0.09 ml | C(C)N(CC)CC | C6H15N
solvent | N,N-dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 1-[2-Methyl-3-(2-oxo-2-pyrrolidin-1-yl-ethylamino)-benzyl]-4-(2-thiophen-2-yl-ethoxy)-1H-pyridin-2-one | 41 mg, 71% | CC1=C(CN2C(C=C(C=C2)OCCC=2SC=CC2)=O)C=CC=C1NCC(N1CCCC1)=O | C25H29N3O3S
